US07323455B2
7-(3-Chlorophenyl)-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one
Prepared from 7-bromo-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3-chlorobenzeneboronic acid generally according to the procedure described in example 1. 1H-NMR (CDCl3) δ 8.26 (br s, 1H), 7.51 (dd, J=8.3, 2.1 Hz, 1H), 7.45 (d, J=0.9 Hz, 1H), 7.42 (dd, J=5.1, 0.9 Hz, 1H), 7.36 (m, 3H), 7.24 (d, J=2.0 Hz, 1H), 7.05 (m, 2H), 6.93 (d, J=3.5 Hz, 1H), 6.24 (s, 1H), 4.56 (d, J=Hz, 1H), 4.47 (d, J=17.0 Hz, 1H); MS (ES) m/z 356 (M+H)+; Anal. Calc. For C19H14ClNO2S: C, 64.13; H, 3.97; N, 3.94. Found: C, 64.1; H, 3.83; N, 3.99.

reactant | 7-bromo-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)C=2SC=CC2)C1 | C13H10BrNO2S
reactant | 3-chlorobenzeneboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 7-(3-Chlorophenyl)-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | ClC=1C=C(C=CC1)C=1C=CC2=C(C(OCC(N2)=O)C=2SC=CC2)C1 | C19H14ClNO2S
